### PR TITLE
[Merged by Bors] - chore(RingTheory/WittVector): process straightforward porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/WittVector/Defs.lean [hunk 1]
```diff
@@ -52,7 +52,6 @@ structure WittVector (p : ℕ) (R : Type*) where mk' ::
   -/
   coeff : ℕ → R
 
--- Porting note: added to make the `p` argument explicit
 /-- Construct a Witt vector `mk p x : 𝕎 R` from a sequence `x` of elements of `R`. -/
 def WittVector.mk (p : ℕ) {R : Type*} (coeff : ℕ → R) : WittVector p R := mk' coeff
```
Comment (JovanGerb) [inline Mathlib/RingTheory/WittVector/Defs.lean]: Isn't it nowadays possible to change the explicitness of arguments of inductive constructors?

Comment (jcommelin) [reply Mathlib/RingTheory/WittVector/Defs.lean]: I know how to do this for the fields aka projections. But I don't know how to do it for the constructor. Please suggest a patch.

Comment (JovanGerb) [reply Mathlib/RingTheory/WittVector/Defs.lean]: You're right, it's currently just a thing for the projections.

File: Mathlib/RingTheory/WittVector/Defs.lean [hunk 2]
```diff
@@ -52,7 +52,6 @@ structure WittVector (p : ℕ) (R : Type*) where mk' ::
   -/
   coeff : ℕ → R
 
--- Porting note: added to make the `p` argument explicit
 /-- Construct a Witt vector `mk p x : 𝕎 R` from a sequence `x` of elements of `R`. -/
```
Comment (Vierkantor) [inline Mathlib/RingTheory/WittVector/Defs.lean]: Could you explain the exact relation with `mk'` in the docstring
```suggestion
/-- Construct a Witt vector `mk p x : 𝕎 R` from a sequence `x` of elements of `R`.

This is preferred over `WittVector.mk'` because it has `p` explicit.
-/
```
(Is it preferred, or simply an alternative?)

File: Mathlib/RingTheory/WittVector/StructurePolynomial.lean [hunk 3]
```diff
@@ -241,9 +241,6 @@ theorem C_p_pow_dvd_bind₁_rename_wittPolynomial_sub_sum (Φ : MvPolynomial idx
   rw [bind₁, aeval_wittPolynomial, map_sum, map_sum, Finset.sum_congr rfl]
   intro k hk
   rw [Finset.mem_range, Nat.lt_succ_iff] at hk
-  -- Porting note (https://github.com/leanprover-community/mathlib4/issues/11083): was much slower
-  -- simp only [← sub_eq_zero, ← RingHom.map_sub, ← C_dvd_iff_zmod, C_eq_coe_nat, ← mul_sub, ←
-  --   Nat.cast_pow]
   rw [← sub_eq_zero, ← RingHom.map_sub, ← C_dvd_iff_zmod, C_eq_coe_nat, ← Nat.cast_pow,
     ← Nat.cast_pow, C_eq_coe_nat, ← mul_sub]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/WittVector/StructurePolynomial.lean:245]: (Figuring out what is going on here: `simp only [← sub_eq_zero]` would already cause `simp` to enter into an infinite loop, so I agree that a `rw` is a good replacement.)

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

**Review by jcommelin — COMMENTED** [review]
bors r+
